US07576109B2
To a solution of 3-oxo-heptanoic acid methyl ester (5.0 g, 31.6 mmol) in dry dichloromethane (80 mL) add sulfurylchloride (2.82 mL). Stir the reaction mixture at room temperature for 30 minutes then add water (20 mL) and the reaction mixture extracted five times with portions of 30 mL of dichloromethane. Wash the combined organic extracts with water, saturated aqueous solution of NaHCO3 and brine and then dry over MgSO4. Remove the solvent under reduced pressure to give 2-chloro-3-oxo-heptanoic acid methyl ester (6.0 g), which was used in the next step without further purification. To a solution of 2-chloro-3-oxo-heptanoic acid methyl ester (6.0 g, 31.1 mmol) in ethanol (50 mL) add 4-(trifluoromethyl) thiobenzamide (6.4 g, 31.2 mmol). Heat the reaction mixture to reflux overnight. Remove the solvent under reduced pressure and purify the residue by chromatography on silica gel (eluting with a gradient of n-heptane:ethyl acetate (100:1 to 60:1)) to give 4-butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-carboxylic acid methyl ester (7.4 g) as a yellow oil.

reactant | 2-chloro-3-oxo-heptanoic acid methyl ester | 31.1 mmol, 6.0 g | COC(C(C(CCCC)=O)Cl)=O | C8H13ClO3
reactant | 4-(trifluoromethyl) thiobenzamide | 31.2 mmol, 6.4 g | FC(C1=CC=C(C(=S)N)C=C1)(F)F | C8H6F3NS
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-carboxylic acid methyl ester | 7.4 g | COC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CCCC | C16H16F3NO2S
